US07989461B2
1-(3,3-Dimethyl-6-(6-methyl-5-(2-(methylamino)quinazolin-6-yl)isoquinolin-1-ylamino)indolin-1-yl)ethanone (180 mg, 0.36 mmol) was dissolved in 5 mL of EtOH and treated with 2 mL of concentrated aqueous HCl. The mixture was heated to 50° C. for 6 h. The mixture was concentrated and the residue was taken up in DCM and neutralized with 2 M ammonia in MeOH. The solution was pre-adsorbed onto silica gel and purified by column chromatography on silica gel using a gradient of 3 to 12% of MeOH in DCM. The clean fraction were concentrated under vacuum and the residue triturated with 1:1 diethyl ether/hexane to give 120 mg of 6-(1-(3,3-dimethylindolin-6-ylamino)-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine as a pale yellow solid. MS (M+H)+ 461.

reactant | 1-(3,3-Dimethyl-6-(6-methyl-5-(2-(methylamino)quinazolin-6-yl)isoquinolin-1-ylamino)indolin-1-yl)ethanone | 0.36 mmol, 180 mg | CC1(CN(C2=CC(=CC=C12)NC1=NC=CC2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC)C(C)=O)C | C31H30N6O
reactant | HCl | 2 mL | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | 6-(1-(3,3-dimethylindolin-6-ylamino)-6-methylisoquinolin-5-yl)-N-methylquinazolin-2-amine | 120 mg | CC1(CNC2=CC(=CC=C12)NC1=NC=CC2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC)C | C29H28N6
